US05656642
A catalytic amount of p-toluenesulfonic acid was added to a solution of 0.45 g of 4-oxo-1-[4-(1,2,4-triazol-1-yl)benzoyl]piperidine and 0.39 g of 2-(4-chlorophenyl) ethylamine in 10 ml of toluene. The mixture was refluxed by heating, for 5 hours while removing the generated water using a Dean-Stark trap. The reaction mixture was concentrated under reduced pressure. To the residue was added 10 ml of ethanol. Thereto was added 70 mg of sodium borohydride at room temperature. The mixture was stirred at room temperature overnight. The reaction mixture was made acidic with concentrated hydrochloric acid and then concentrated under reduced pressure. To the residue was added ice water. The mixture was made basic with an aqueous sodium hydroxide solution and extracted with two 30-ml portions of ethyl acetate. The extract was washed with water and a saturated aqueous sodium chloride solution in this order, dried with sodium sulfate, and concentrated under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (eluant: methylene chloride/methanol=25/1) and then recrystallized from ethyl acetate to obtain 4-[2-(4-chlorophenyl)ethylamino]-1-[4-(1,2,4-triazol-1-yl)benzoyl]piperidine as a white powder.

reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 4-oxo-1-[4-(1,2,4-triazol-1-yl)benzoyl]piperidine | 0.45 g | O=C1CCN(CC1)C(C1=CC=C(C=C1)N1N=CN=C1)=O | C14H14N4O2
reactant | 2-(4-chlorophenyl) ethylamine | 0.39 g | ClC1=CC=C(C=C1)CCN | C8H10ClN
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(4-chlorophenyl)ethylamino]-1-[4-(1,2,4-triazol-1-yl)benzoyl]piperidine | ClC1=CC=C(C=C1)CCNC1CCN(CC1)C(C1=CC=C(C=C1)N1N=CN=C1)=O | C22H24ClN5O
